US05808088
A method of preparing 2-[2-{[3-(1H-benzimidazol-2-yl)propyl]methylamino)}ethyl]-6-fluoro-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl methoxyacetate comprises contacting 6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one with the dianion of N-[3-(1H-benzimidazol-2-yl)propyl]-N-methylacetamide to form N-[3-(1H-benzimidazol-2-yl)propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide, reducing this to 2-[2-{[3-(1H-benzimidazol-2-yl)propyl]methylamino}ethyl]-6-fluoro-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-ol, and treating the 2-[2-{[3-(1H-benzimidazol-2-yl)propyl]methylamino}ethyl]-6-fluoro-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-ol with methoxyacetic acid or an activated derivative of methoxyacetic acid. The invention is particularly applicable to the preparation of mibefradil, (lS,2S)-2-[2-{[3-(1H-benzimidazol-2-yl)propyl]methylamino}ethyl]-6-fluoro-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl methoxyacetate, and its dihydrochloride salt. N-[3-(1H-Benzimidazol-2-yl)propyl]-N-methylacetamide, and the acetic acid solvate of 2-[2- {[3-(1H-benzimidazol-2-yl)propyl]methylamino}ethyl]-6-fluoro-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-ol dioxalate, are new.

reactant | 6-fluoro-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl methoxyacetate | COCC(=O)OC1C(C2=CC=C(C=C2CC1)F)C(C)C | C16H21FO3
reactant | 6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC(C(C2=CC1)C(C)C)=O | C13H15FO
reactant | N-[3-(1H-benzimidazol-2-yl)propyl]-N-methylacetamide | N1C(=NC2=C1C=CC=C2)CCCN(C(C)=O)C | C13H17N3O
product | N-[3-(1H-benzimidazol-2-yl)propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide | N1C(=NC2=C1C=CC=C2)CCCN(C(CC2(C(C1=CC=C(C=C1CC2)F)C(C)C)O)=O)C | C26H32FN3O2
